2193-12-30 07:46:00 Physician Resident Progress Note
Chief Complaint: Seizure and altered mental status
   24 Hour Events:
 ULTRASOUND - At [**2193-12-29**] 02:00 PM
   LE's
   - Patient brought to floor
   - Given 5 mg lopressor in TSICU then another 10 mg on floor - helped to
   rate control from ~ 140 to 100s.
   - Started diltiazem 30 mg QID
   - Sedation (propofol and lorazepam) stopped at about 11:30 a.m. and
   patient still not to baseline by evening.
   - Per family, patient can follow commands (such as squeeze hand) and
   will look around meaningfully at baseline, but can neither speak nor
   move.
   - EEG electrodes removed this a.m. for MRI
   - Neurology suggested MRI as soon as hemodynamically stable (we should
   get this in a.m.
   - Let SBP run 120s-150s if possible given possible stroke
   - EEG electrodes can be replaced after MRI if Neuro/we like.
   - BP quite labile, particularly when patient being passively moved
   around
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Heparin Sodium - [**2193-12-29**] 09:00 AM
   Metoprolol - [**2193-12-29**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-30**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 107 (82 - 129) bpm
   BP: 107/59(75) {87/53(64) - 180/99(129)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,779 mL
                                                                    290 mL
   PO:
             TF:
   IVF:
                                                                  4,679 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    265 mL
   Urine:
                                                                  1,395 mL
                                                                    265 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  3,134 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 616 (406 - 677) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 7 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   10.4 g/dL
   140 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   17 mg/dL
   110 mEq/L
   137 mEq/L
   32.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2193-12-28**]  05:48 PM
                             [**2193-12-28**]  10:40 PM
                             [**2193-12-29**]  02:52 AM
                             [**2193-12-29**]  02:58 AM
                             [**2193-12-29**]  07:50 AM
                             [**2193-12-29**]  08:52 AM
                             [**2193-12-29**]  11:23 AM
                             [**2193-12-29**]  02:00 PM
                             [**2193-12-29**]  08:52 PM
                             [**2193-12-30**]  03:30 AM
   WBC
   11.4
   11.3
   10.7
   Hct
   35.3
   32.5
   32.5
   Plt
   285
   278
   293
   Cr
   1.6
   1.6
   1.5
   TropT
   0.11
   0.11
   TCO2
   19
   19
   24
   Glucose
   128
   125
   155
   143
   140
   Other labs: PT / PTT / INR:13.2/64.1/1.1, CK / CKMB /
   Troponin-T:1057/9/0.11, Lactic Acid:1.3 mmol/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
   73 yo M with a history of afib, L MCA stroke, recurrent seizures who
   initally presented after witnessed seizure, now transferred to the MICU
   with tachycardia and hypotension.
   .
   1. Tachycardia and hypotension: Patient initally hypertensive in the
   ED, and has been getting metoprolol and Hydralazine for hypertension.
   Now intubated, on sedatives, and hypotensives. Differential includes
   hypovolemia, medication effect, hypotension secondary to Afib with RVR,
   PE, MI, sepsis. Given that inital hypotensive episode was this morning
   in the context of a rapid heart rate in the 150s, Afib is likely
   etiology. However, given concern for LE thrombus yesterday which seems
   to have resolved, tachypnea requiring intubation, PE is on the
   differential. CTA was defered given Acute renal failure, which is
   resolving. Sepsis is possible since patient had a fever of 100.8 in the
   ED. However since admission patient has remained afebrile. It is
   reassuring that CSF results do not support infection.
   -continue heparin gtt empirically for PE
   -consider CTA this evening or tomorrow as renal function improves
   -obtain LENI of LLE (R negative)
   -consider echo
   -control atrial fibrillation with amiodarone gtt
   -start low dose po metoprolol for rate control. Wean up as BP
   tolerates.
   -rule out MI
   -rule out infection: obtain urine culture, follow up blood cultures,
   follow up CSF cultures
   -culture if spikes; consider antibiotic coverage. Would hold off for
   now given no localizing sources of infection.
   .
   2. Respiratory failure: Patient was intubated for tachypnea in the ER.
   Currently with good O2 saturations on PS 5/5. Would favor extubation to
   avoid sedating medications that may be contributing to hypotension.
   -d/c Propofol
   -optimize for extubation
   .
   # Acute renal failure: Baseline Cr 0.9. Cr on admission was 2.0, down
   to 1.6 today. Would consider CTA tomorrow assuming renal function woudl
   improve further. However if becomes tachycardic or hypoxic, could
   consider CTA earlier.
   -obtain urine lytes
   -avoid nephrotoxins; renally dose medications
   .
   #. Seizures: Patient with recurrent seizure disorder. EEG performed
   shows no seizure activity since admission.
   -Continue Tegretol 300mg [**Hospital1 **]
   -Disontinue Ativan 1mg IV BID
   -f/u neurology recs
   .
   # h/o MCA stroke:
   -continue plavix, pravastatin per outpatient regimen
   .
   # Concern for hyperemic RLE: RLE hyperemic in the ED. R LENI negative.
   Vascular evaluated the patient and has signed off. Currently both LEs
   have good circulation and pulses.
   -continue to monitor
   .
   .
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Heparin gtt, Famotidine
   # Access: PIV x3
   # Communication: Patient and daughter
   # Code:  Full (discussed with daughter)
   # Disposition: ICU pending clinical improvement
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-28**] 05:00 PM
   20 Gauge - [**2193-12-29**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-12-31 07:06:00 Physician Resident Progress Note
Chief Complaint: Seizure and persistently altered mental status
   afterward.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2193-12-30**] 10:30 AM
   - MRI with acute infarct involving the entire right MCA territory with
   small amount of hemorrhage in the right temporal lobe, mass effect on
   right lateral ventricle and 4mm right to left midline shift with near
   complete occlusion of the right ICA.
   - Heparin, plavix discontinued based on MRI findings
   - Palliative care consulted and noted that they briefly met with
   family, that the is family overwhelmed with rapid turn of events, and
   that they are available tomorrow to assist with care
   - Stroke team consulted and recommending allowing BP to autoregulate
   (can treat SBP > 200 with hydralazine 10mg IV), continue tegretol as
   seizure ppx
   - Patient will likely be made CMO in the morning
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-31**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 101 (89 - 128) bpm
   BP: 106/62(77) {82/53(64) - 151/88(107)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    850 mL
                                                                    518 mL
   PO:
             TF:
   IVF:
                                                                    790 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    260 mL
   Urine:
                                                                    780 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     70 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 582 (487 - 712) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 8.6 L/min
   Physical Examination
   General: Intubated and sedated. Pale and clearly hemiparetic elderly
   man.
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: Irregularly irregular. Tachycardic.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Neuro: Non-responsive. Only eye opening without fixation or movements
   on physical stimulation. No response to voice. Completely non-verbal.
   Only reflexive bodily movements when being moved around. Rigid and
   wasted right leg, left more flaccid. Upper limbs rigid R > L. R flexor
   and L extensor.
   Labs / Radiology
   261 K/uL
   9.8 g/dL
   127 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.7 mEq/L
   17 mg/dL
   110 mEq/L
   137 mEq/L
   30.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2193-12-28**]  10:40 PM
                             [**2193-12-29**]  02:52 AM
                             [**2193-12-29**]  02:58 AM
                             [**2193-12-29**]  07:50 AM
                             [**2193-12-29**]  08:52 AM
                             [**2193-12-29**]  11:23 AM
                             [**2193-12-29**]  02:00 PM
                             [**2193-12-29**]  08:52 PM
                             [**2193-12-30**]  03:30 AM
                             [**2193-12-31**]  04:01 AM
   WBC
   11.4
   11.3
   10.7
   8.8
   Hct
   35.3
   32.5
   32.5
   30.4
   Plt
   285
   278
   293
   261
   Cr
   1.6
   1.6
   1.5
   1.5
   TropT
   0.11
   0.11
   TCO2
   19
   24
   Glucose
   128
   125
   155
   143
   140
   127
   Other labs: PT / PTT / INR:11.9/27.5/1.0, CK / CKMB /
   Troponin-T:1057/9/0.11, Lactic Acid:1.3 mmol/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: MRI shows new stroke of right MCA territory with very small
   preserved cortex at midline.
   Assessment and Plan
   73 yo M with a history of afib, L MCA stroke, recurrent seizures who
   initally presented after witnessed seizure, now transferred to the MICU
   with tachycardia and hypotension.
   Full right MCA territory stroke now, on top of previous left MCA. Only
   viable cortex supplied by anterior cerebral and posterior cerebral on
   right. No meaningful recovery expected, therefore need to discuss
   further with family, who wanted time to think about transition to CMO.
   He is presentely DNR/do not re-intubate.
   #. Discussion with family
   - Plan to meet with them again to determine whether to continue
   treatment or transition to CMO
   #. Tachycardia and hypotension
   Stroke team want BP to autoregulate at present.
   - If BP > 200 mmHg then hydralazine.
   - Keep rate controlled enough to prevent myocardial ischemia.
   - Stop anticoagulants given small hemorrhagic conversion
   #. AMS
   Secondary to very large cortical infarction now with great some of
   fractional loss of cortical function.
   - Continue to hold sedating medications
   - Continue anticonvulsants
   - Appreciate Neuro recs
   - Discuss further with family
   # Acute renal failure
   Continues to improve. Versus prerenal with increased viscosity and
   dislodging of clot or increased clotting in small vessel. Possible
   component of etiology.
   - Continue maintenance fluids only for now
   - Avoid nephrotoxins; renally dose medications
   #. Seizures
   Patient with recurrent seizure disorder. EEG performed shows no seizure
   activity since admission. Continue Mx as above
   -Continue Tegretol 300mg [**Hospital1 **]
   -Disontinue Ativan 1mg IV BID
   -f/u neurology recs
   # Concern for hypoperfused RLE
   Improved perfusion in context of heparin gtt.
   - Continue to monitor
   # FEN: Supportive maintenance fluids, replete electrolytes, NPO for now
   # Prophylaxis: Boots only, Famotidine
   # Access: PIV x3
   # Communication: Patient and daughter
   # Code:  Full (discussed with daughter)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-28**] 05:00 PM
   20 Gauge - [**2193-12-29**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-01-01 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family Meeting: Awaiting family from out of town. Would like to plan
   for extubation in the morning [**1-1**].
   - Neuro recs: Comfort measures.
   - Palliative care recs: Nothing new.
   - Patient hypotensive during the afternoon, bolused 500cc with good
   response. However continued to have lability of blood pressure during
   the afternoon/evening
   - Went into A. fib with RVR (150s). Gave 5mg Lopressor with rate to
   100s, blood pressure 80s/40s during so bolused 500cc. Pressures/rate
   stabilized.
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-12-31**] 11:15 PM
   Metoprolol - [**2193-12-31**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-1**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 104 (75 - 173) bpm
   BP: 116/75(88) {82/59(71) - 167/118(137)} mmHg
   RR: 15 (12 - 41) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,583 mL
                                                                    935 mL
   PO:
             TF:
   IVF:
                                                                  2,583 mL
                                                                    935 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    245 mL
   Urine:
                                                                    730 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,853 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (418 - 711) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 7.9 L/min
   Physical Examination
   General: Intubated and sedated. Pale and clearly hemiparetic elderly
   man.
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: Irregularly irregular. Tachycardic.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Neuro: Non-responsive. Only eye opening without fixation or movements
   on physical stimulation. No response to voice. Completely non-verbal.
   Only reflexive bodily movements when being moved around. Rigid and
   wasted right leg, left more flaccid. Upper limbs rigid R > L. R flexor
   and L extensor.
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   102 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   15 mg/dL
   111 mEq/L
   139 mEq/L
   30.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2193-12-29**]  02:52 AM
                             [**2193-12-29**]  02:58 AM
                             [**2193-12-29**]  07:50 AM
                             [**2193-12-29**]  08:52 AM
                             [**2193-12-29**]  11:23 AM
                             [**2193-12-29**]  02:00 PM
                             [**2193-12-29**]  08:52 PM
                             [**2193-12-30**]  03:30 AM
                             [**2193-12-31**]  04:01 AM
                             [**2194-1-1**]  03:43 AM
   WBC
   11.4
   11.3
   10.7
   8.8
   9.3
   Hct
   35.3
   32.5
   32.5
   30.4
   30.5
   Plt
   285
   278
   293
   261
   265
   Cr
   1.6
   1.6
   1.5
   1.5
   1.4
   TropT
   0.11
   0.11
   TCO2
   24
   Glucose
   128
   125
   155
   143
   140
   127
   102
   Other labs: PT / PTT / INR:11.9/27.5/1.0, CK / CKMB /
   Troponin-T:1057/9/0.11, Lactic Acid:1.3 mmol/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   [**12-31**] CXR
 There is no interval pneumothorax, pleural effusion or focal
   consolidation.
   [**12-29**] Urine
 negative; final
   [**12-28**] MRSA screen
 negative; final
   [**12-28**] CSF
 negative; final
   [**12-28**] Blood cultures
 negative; pending
   Assessment and Plan
   73 yo M with a history of afib, L MCA stroke, recurrent seizures who
   initially presented after witnessed seizure, now transferred to the
   MICU with tachycardia and hypotension and found to have full right MCA
   territory stroke with only viable cortex supplied by anterior cerebral
   and posterior cerebral on right. No meaningful recovery expected and
   family is in agreement with plans to transition to CMO. He is presently
   DNR/do not re-intubate.
   # Left MCA stroke. Likely etiology of patient
s seizure presentation
   and AMS secondary to very large cortical infarction now with greater
   loss of cortical function.
   - Discuss with family again this AM regarding plans for continued
   treatment vs transition to CMO
   - Continue supportive care
   - Continue seizure prophylaxis with tegretol
   - Continue to hold sedating medications (hold ativan)
   - Appreciate neurology, stroke, palliative care recs; will continue to
   follow
   # Autonomic lability. Likely etiology of patient
s labile BP secondary
   to continued autoregulation.
   - Consider hydralazine for SBP > 200
   - Continue rate control prn
   - Continue fluid boluses prn
   - Continue to hold anticoagulation given small hemorrhagic conversion
   # A fib. Episode last night of a. fib with RVR that responded well to
   lopressor.
   - Continue rate control prn
   # Acute renal failure. Improving. Consider prerenal with increased
   viscosity and dislodging of clot or increased clotting in small vessel.
   - Continue maintenance fluids
   - Continue to renally dose medications; avoid nephrotoxins
   # Seizures. Likely secondary to new L MCA stroke.
   - Continue seizure prophylaxis with tegretol
   # Concern for hypoperfused RLE.
   - Continue to monitor
   # FEN: Supportive maintenance fluids, replete electrolytes, NPO for now
   # Prophylaxis: Boots only, famotidine
   # Access: PIV x3
   # Communication: Patient and daughter
   # Code:  DNR/DNI (discussed with daughter, family)
   # Disposition: ICU pending determination of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-28**] 05:00 PM
   20 Gauge - [**2193-12-29**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-01-02 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated
   - Made CMO
   - Morphine drip; scopolamine patch
   - Became tachycardic again to 130s in the evening.
   - RVR later yesterday, but with good pressures.
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2194-1-1**] 06:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-2**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 38
C (100.4
   Tcurrent: 35.9
C (96.7
   HR: 160 (90 - 160) bpm
   BP: 107/63(77) {98/55(67) - 171/101(128)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 65%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,417 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                  1,357 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                     60 mL
   Urine:
                                                                    515 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: [[**Doctor First Name **]: CPAP/PSV :[**Doctor First Name **]]
   Vt (Spontaneous): 413 (413 - 413) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 65%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   General: Sedated, appears comfortable. Pale and clearly hemiparetic
   elderly man.
   HEENT: Sclera anicteric, PERRL, MMM
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: Irregularly irregular. Tachycardic.
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Neuro: Nonresponsive. Only eye opening without fixation or movements on
   physical stimulation. No response to voice. Completely non-verbal. Only
   reflexive bodily movements when being moved around. Rigid and wasted
   right leg, left more flaccid. Upper limbs rigid R > L. R flexor and L
   extensor.
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   102 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   15 mg/dL
   111 mEq/L
   139 mEq/L
   30.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2193-12-29**]  02:52 AM
                             [**2193-12-29**]  02:58 AM
                             [**2193-12-29**]  07:50 AM
                             [**2193-12-29**]  08:52 AM
                             [**2193-12-29**]  11:23 AM
                             [**2193-12-29**]  02:00 PM
                             [**2193-12-29**]  08:52 PM
                             [**2193-12-30**]  03:30 AM
                             [**2193-12-31**]  04:01 AM
                             [**2194-1-1**]  03:43 AM
   WBC
   11.4
   11.3
   10.7
   8.8
   9.3
   Hct
   35.3
   32.5
   32.5
   30.4
   30.5
   Plt
   285
   278
   293
   261
   265
   Cr
   1.6
   1.6
   1.5
   1.5
   1.4
   TropT
   0.11
   0.11
   TCO2
   24
   Glucose
   128
   125
   155
   143
   140
   127
   102
   Other labs: PT / PTT / INR:11.9/27.5/1.0, CK / CKMB /
   Troponin-T:1057/9/0.11, Lactic Acid:1.3 mmol/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   [**12-31**] CXR
 Final; no interval change
   Assessment and Plan
   73 yo M with a history of a. fib, L MCA stroke, recurrent seizures who
   initially presented after witnessed seizure, now transferred to the
   MICU with tachycardia and hypotension and found to have full right MCA
   territory stroke with only viable cortex supplied by anterior cerebral
   and posterior cerebral on right. No meaningful recovery expected and
   patient has been made CMO.
   # Right MCA stroke. Likely etiology of patient
s seizure presentation
   and AMS secondary to very large cortical infarction now with greater
   loss of cortical function.
   - Continue comfort measures only
   - Continue morphine drip
   - Continue seizure prophylaxis with tegretol
   - Appreciate neurology, stroke, palliative care recommendations
   # Autonomic lability. Likely secondary to continued autoregulation.
   - Continue rate control prn
   - Continue fluid boluses prn
   - Continue to hold anticoagulation given small hemorrhagic conversion
   # A fib. Episode last night of a. fib with RVR.
   - Continue rate control prn
   # Acute renal failure. Stable/improving.
   - Continue maintenance fluids
   - Continue to renally dose medications; avoid nephrotoxins
   # Seizures. Likely secondary to new R MCA stroke.
   - Continue seizure prophylaxis with tegretol
   # FEN: Supportive maintenance fluids, replete electrolytes prn, NPO
   # Prophylaxis: Comfort measures only
   # Access: PIV
   # Communication: Patient and daughter
   # Code:  CMO (discussed with daughter, family)
   # Disposition: ICU at this time
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-28**] 05:00 PM
   20 Gauge - [**2193-12-29**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: